data/mechanisms/records/IMS4-EQ4.4c.json
{"mechanism_id": "IMS4-EQ4.4c", "species": [{"species_id": "precursor", "mapped_smiles": "[CH2:1]([1H:4])[CH2:2][O+:3][1H:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "water_cation", "mapped_smiles": "[1H:4][O+:3][1H:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["precursor"]}, {"state_id": "state_products", "species_ids": ["water_cation", "ethylene"]}], "steps": [{"step_id": "step_water_elimination", "from_state": "state_precursor", "to_state": "state_products", "step_class": "water_elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_water_elimination", "support_type": "textbook_proposed", "locator": {"page": 55, "equation": "4.4", "section": "4.4 Reaction classifications"}, "confidence": 0.8, "curator_note": "Ethanol molecular ion (n-ionised at O, +. on OH) losing water by 1,2-elimination: the beta H on the methyl carbon (H4) and the OH combine as H2O while C1=C2 (ethylene) forms. Charge RETENTION: water leaves as the radical cation HOH+.. Book draws 4 fishhook barbs -- a two-barbed homolysis mark on the cleaved C1-H(beta) bond <1,4> and on the cleaved C2-O bond <2,3>; all four encoded moves are drawn (each cleaved bond sends one electron to the forming C=C pi and one to the forming O-H bond of water). The O keeps its charge+radical."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 46.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ion", "species_id": "water_cation", "step_id": "step_water_elimination", "observed_mz": 18.01, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
